US07855292B2
A. 2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4,5-dichloro-benzoic acid methyl ester
The title compound (0.95 g, 50%) was prepared from methyl 2-amino-4,5-dichlorobenzoate and 4-chlorosulfonyl-2,1,3-benzothiadiazole as in Example 1, Part A (without DMAP). 1H NMR (500 MHz, CDCl3): 11.21 (s, 1H), 8.39 (dd, J=7.1, 1.0, 1H), 8.25 (dd, J=8.8, 1.0, 1H), 7.94 (s, 1H), 7.91 (s, 1H), 7.74 (dd, J=8.8, 7.1, 1H), 3.93 (s, 3H).

reactant | methyl 2-amino-4,5-dichlorobenzoate | NC1=C(C(=O)OC)C=C(C(=C1)Cl)Cl | C8H7Cl2NO2
reactant | 4-chlorosulfonyl-2,1,3-benzothiadiazole | ClS(=O)(=O)C1=CC=CC2=NSN=C21 | C6H3ClN2O2S2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4,5-dichloro-benzoic acid methyl ester | 0.95 g, 50% | COC(C1=C(C=C(C(=C1)Cl)Cl)NS(=O)(=O)C1=CC=CC=2C1=NSN2)=O | C14H9Cl2N3O4S2
